US07994163B2
To a solution of 3-tert-butoxycarbonyl-7-chloro-6-(4,5-dihydro-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.77 g, 1.9 mmol) in anhydrous DCM (41 mL) at room temperature add trifluoroacetic acid (37.7 mL) and stir the solution at room temperature overnight. Concentrate in vacuo and elute the residue through a SCX column (10 g). Dissolve the residue in DCM, load the solution on to a RediSep® column (40 g) and purify the crude mixture by preparative liquid chromatography (linear gradient: 100:0 to 90:10 DCM/2M ammonia in methanol over 30 min; 35 mL/min) to afford 7-chloro-6-(4,5-dihydro-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.58 g, 100%). MS (ES+) m/z: 313.1 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(4,5-dihydro-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.9 mmol, 0.77 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC=2SCCN2 | C19H25ClN2O2S2
reactant | trifluoroacetic acid | 37.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 41 mL | C(Cl)Cl | CH2Cl2
product | 7-chloro-6-(4,5-dihydro-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.58 g, 100% | ClC1=C(C2=C(CCNCC2)C=C1)CSC=1SCCN1 | C14H17ClN2S2
